US07855292B2
D. (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester
To a solution of (S)-2-(2-amino-4-iodo-benzoylamino)-3-(3,4-dichloro-phenyl)-propionic acid methyl ester (39 mg, 0.079 mmol) in DCM (1 mL) was added 4-chlorosulfonyl-2,1,3-benzothiadiazole (37 mg, 0.158 mmol) and pyridine (30 μL, 0.371 mmol). The mixture was shaken overnight at rt, then polymer bound tris(2-aminoethyl)amine resin was added. The resulting mixture was shaken for 2 h, and the resin was removed by filtration and rinsed with DCM. TBD methyl polystyrene resin was then added and the mixture was shaken for 2 h. The liquid was drained and the resin was washed with DCM (3×). A solution of 10% TFA in DCM (3 mL) was added to the resin and the mixture was shaken for 1.5 h. The resin was removed by filtration, washed with 10% TFA in DCM and the filtrate was concentrated to provide the desired product as a white solid (55 mg, 99%). 1H NMR (400 MHz, CDCl3): 11.10 (s, 1H), 8.36 (dd, J=7.0, 0.8, 1H), 8.24 (dd, J=8.8, 0.8, 1H), 8.02 (d, J=1.5, 1H), 7.75 (dd, J=8.8, 7.1, 1H), 7.37-7.32 (m, 2H), 7.16 (d, J=2.0, 1H), 6.96 (d, J=8.3, 1H), 6.92 (dd, J=8.2, 2.0, 1H), 6.67 (d, J=7.3, 1H), 4.96 (q, J=5.7, 1H), 3.83 (s, 3H), 3.20-3.12 (m, 2H).

reactant | (S)-2-(2-amino-4-iodo-benzoylamino)-3-(3,4-dichloro-phenyl)-propionic acid methyl ester | 0.079 mmol, 39 mg | COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)I)N)=O)=O | C17H15Cl2IN2O3
reactant | 4-chlorosulfonyl-2,1,3-benzothiadiazole | 0.158 mmol, 37 mg | ClS(=O)(=O)C1=CC=CC2=NSN=C21 | C6H3ClN2O2S2
reactant | pyridine | 0.371 mmol, 30 μL | N1=CC=CC=C1 | C5H5N
reactant | tris(2-aminoethyl)amine | NCCN(CCN)CCN | C6H18N4
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-iodo-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid methyl ester | 55 mg, 99% | COC([C@H](CC1=CC(=C(C=C1)Cl)Cl)NC(C1=C(C=C(C=C1)I)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17Cl2IN4O5S2
